US05766932
Suspend diethylacetamidomalonate (44 g, 0.203 mol), alpha-bromo-p-toluonitrile (40 g, 0.204 mol), potassium iodide (10 g) in dioxane (400 mL) and add a solution of sodium ethoxide (4.6 g of sodium in 200 mL of dry ethanol). Heat under reflux the mixture for 3-4 hours and let stay overnight. Pour the mixture on ice (2 L), filtrate the precipitate, wash with water and dry on lyophyliser. Recrystallize from methanol, to give diethyl 4-cyanobenzylacetamidomalonate as white crystals (61 g, 91%).

reactant | diethylacetamidomalonate | 0.203 mol, 44 g | C(C)C(C(=O)NC(C(=O)[O-])C(=O)[O-])CC
reactant | alpha-bromo-p-toluonitrile | 0.204 mol, 40 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
reactant | potassium iodide | 10 g | [I-].[K+]
reactant | sodium ethoxide | 200 mL, 4.6 g | [O-]CC.[Na+]
reactant | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | diethyl 4-cyanobenzylacetamidomalonate | 61 g, 91% | C(#N)C1=CC=C(CCC(=O)NC(C(=O)OCC)C(=O)OCC)C=C1 | C17H20N2O5
